US07985753B2
N-(2-p-Tolyl-ethyl)-acetamide
In close analogy to the procedure described above, 2-p-tolyl-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-p-tolyl-ethylamine | C1(=CC=C(C=C1)CCN)C | C9H13N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-p-Tolyl-ethyl)-acetamide | C1(=CC=C(C=C1)CCNC(C)=O)C | C11H15NO
